US07741327B2
In a round bottom flask under argon was placed (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-4-methoxy-butyramide (26 mg, 0.051 mmol) dissolved in methanol (3 mL). This mixture was treated with p-toluenesulfonic acid monohydrate (1.5 mg, 0.008 mmol) and stirred at 25° C. for 16 h. After this time period, the mixture was concentrated in vacuo and purified by AnaLogix IntelliFlash flash chromatography (4 g column, 100% ethyl acetate to 5% methanol/ethyl acetate) to afford (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4-methoxy-butyramide (22 mg, 92%) as a light yellow foam: HR-ES-MS m/z calculated for C21H25N4O6Cl [M+H]+ 465.1536, observed 465.1536; 1H NMR (300 MHz, DMSO-d6) δ ppm 2.06 (br. s., 2H), 3.20 (s, 3H), 3.22-3.31 (m, 4H), 3.67-3.78 (m, 1H), 3.78-3.90 (m, 1H), 4.07 (dd, J=13.6, 3.9 Hz, 1H), 4.27 (d, J=18.4 Hz, 1H), 4.50 (d, J=18.4 Hz, 1H), 4.69 (t, J=5.4 Hz, 1H), 4.78 (s, 1H), 4.79-4.88 (m, 1H), 4.92 (d, J=5.4 Hz, 1H), 6.39 (d, J=2.1 Hz, 1H), 7.30-7.40 (m, 1H), 7.41-7.55 (m, 3H), 7.64 (d, J=7.2 Hz, 1H), 10.64 (s, 1H).

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-4-methoxy-butyramide | 0.051 mmol, 26 mg | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)NC2=NN(C=C2)C[C@H]2OC(OC2)(C)C)CCOC)=O)C=CC=C1 | C24H29ClN4O6
reactant | p-toluenesulfonic acid monohydrate | 0.008 mmol, 1.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 3 mL | CO | CH4O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4-methoxy-butyramide | 22 mg, 92% | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)NC2=NN(C=C2)C[C@H](CO)O)CCOC)=O)C=CC=C1 | C21H25ClN4O6
